US07795283B2
iii) Methyl ({6-[4-(2-methoxy-2-oxoethyl)-4-methylpiperidin-1-yl]pyridin-3-yl}amino)(oxo)acetate
To a solution of methyl [1-(5-aminopyridin-2-yl)-4-methylpiperidin-4-yl]acetate (3.29 g, 13.20 mmol) in DCM (100 mL) was added triethylamine (2.2 mL, 15.84 mmol) followed by methyl chlorooxoacetate (1.6 mL, 17.15 mmol) and the reaction mixture was allowed to stir at ambient temperature for 1.5 hrs. The reaction mixture was washed brine (2×100 mL), the aqueous layer was re extracted with DCM (50 mL) the organic washings were combined, dried and concentrated to leave the title compound as a brown gum (4.4 g, 13.2 mmol, 100%). 1H NMR δ 1.06 (s, 3H), 1.40-1.46 (m, 2H), 1.53-1.57 (m, 2H), 2.36 (s, 3H), 3.46-3.52 (m, 2H), 3.59 (s, 3H), 3.67-3.73 (m, 2H), 3.78 (s, 3H), 6.90 (d, 1H), 7.56 (d, 1H), 8.06 (s, 1H); MS m/e MH+ 350.

reactant | methyl [1-(5-aminopyridin-2-yl)-4-methylpiperidin-4-yl]acetate | 13.20 mmol, 3.29 g | NC=1C=CC(=NC1)N1CCC(CC1)(C)CC(=O)OC | C14H21N3O2
reactant | triethylamine | 15.84 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chlorooxoacetate | 17.15 mmol, 1.6 mL | ClC(C(=O)OC)=O | C3H3ClO3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl ({6-[4-(2-methoxy-2-oxoethyl)-4-methylpiperidin-1-yl]pyridin-3-yl}amino)(oxo)acetate | 13.2 mmol, 4.4 g, 100% | COC(CC1(CCN(CC1)C1=CC=C(C=N1)NC(C(=O)OC)=O)C)=O | C17H23N3O5
